US08022062B2
6-Bromomethyl-benzothiazole:
Dissolve benzothiazol-6-yl-methanol (0.4 g, 2.55 mmol) in diethyl ether (10 mL) and add slowly a solution of phosphorus tribromide (0.7 g, 2.55 mmol) in diethyl ether (5 mL). Stir the reaction mixture for 2 h at ambient temperature, wash with brine, dry the organic phase over anhydrous Na2SO4, evaporate the solvent and purify by chromatography on silica gel eluting with hexane/EtOAc (1:0, 9:1 and 4:1) to obtain the title compound as a white solid (0.5 g, 86%). MS (ES+) m/z: 229 (M+H)+.

reactant | benzothiazol-6-yl-methanol | 2.55 mmol, 0.4 g | S1C=NC2=C1C=C(C=C2)CO | C8H7NOS
reactant | phosphorus tribromide | 2.55 mmol, 0.7 g | P(Br)(Br)Br | Br3P
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | 6-Bromomethyl-benzothiazole | 0.5 g, 86% | BrCC1=CC2=C(N=CS2)C=C1 | C8H6BrNS
